US08445509B2
Production of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxamide hydrochloride monohydrate
To a suspension of N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxamide (400 mg, 0.72 mmol) in methyl ethyl ketone (7 mL) and water (5 mL) was slowly added 6N aqueous hydrochloric acid solution (240 μL), and the mixture was stirred at room temperature for 1 hr. The precipitated solid was collected by filtration, washed with methyl ethyl ketone and suspended in ethanol (5 mL), and the suspension was stirred at 70° C. for 10 min. The solid was collected by filtration, washed with ethanol and dried under reduced pressure to give the title compound (120 mg, 27%) as a white solid.

reactant | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.72 mmol, 400 mg | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2C)C)C2=CC=C(C=C2)F)=O)F)C1 | C29H24F2N6O4
reactant | hydrochloric acid | 6N, 240 μL | Cl | ClH
solvent | methyl ethyl ketone | 7 mL | C(C)C(=O)C | C4H8O
solvent | water | 5 mL | O | H2O
product | N-[4-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-3-fluorophenyl]-2-(4-fluorophenyl)-1,5-dimethyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxamide hydrochloride monohydrate | 120 mg, 27% | O.Cl.C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC2=C(C=C(C=C2)NC(=O)C=2C(N(N(C2C)C)C2=CC=C(C=C2)F)=O)F)C1 | InChI=1S/C29H24F2N6O4.ClH.H2O/c1-16-26(29(40)37(35(16)2)20-8-5-18(30)6-9-20)28(39)32-19-7-11-23(22(31)13-19)41-21-10-12-25-33-24(15-36(25)14-21)34-27(38)17-3-4-17;;/h5-15,17H,3-4H2,1-2H3,(H,32,39)(H,34,38);1H;1H2
